US06809097B1
3-Methoxy-4-methoxycarbonylaniline (14.15 g, 78 mmol) was suspended in isopropanol and heated at 50° C. 2,2-Dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione (14.8 g, 80 mmol), (Montatsh. Chem. 1967, 98, 564), was then added in portions over 10 minutes and the mixture was heated at reflux for 30 minutes. The mixture was left to cool to ambient temperature overnight. The precipitate formed was collected by filtration, washed with isopropanol and dried under vacuum to give 5-((3-methoxy-4-methoxycarbonylanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (25.2 g, 96%).

reactant | 3-Methoxy-4-methoxycarbonylaniline | 78 mmol, 14.15 g | COC=1C=C(N)C=CC1C(=O)OC | C9H11NO3
reactant | 2,2-Dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione | 80 mmol, 14.8 g | CC1(OC(C(C(O1)=O)=COC)=O)C | C8H10O5
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-((3-methoxy-4-methoxycarbonylanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 25.2 g, 96% | COC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1C(=O)OC | C16H17NO7
